US06045590
Preparation of 2-methyl-1-(2'2'2'-trifluoroacetoxy)naphthalene
2.64 g (26 mmole) of triethylamine was added, with stirring, to a solution of 3.16 g (20 mmole) of 2-methyl-1-naphthol in 25 mL of ethyl acetate, while the solution was maintained in an ice bath. Then 5.25 g (25 mmole) of trifluoroacetic anhydride was added portionwise. The reaction mixture was stirred for one hour, washed with water three times, dried over anhydrous sodium sulfate, then evaporated to give an oil. Crystallization of the oil in hexane yielded 850 mg (17% yield) of the title compound having a melting point of 34° C. and an 1HNMR analysis as follows: (300 MHz, DMSO-d6) δ2.31 (s, 3H), 7.51 (d, 1H, J=8 Hz), 7.54-7.65 (m, 2H), 7.82 (d, 1H, J=8 Hz), 7.91 (d, 1H, J=8 Hz), 8.00 (d, 1H, J=8 Hz). The mass spectrum showed a molecular ion at m/z 254.

reactant | triethylamine | 26 mmole, 2.64 g | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-1-naphthol | 20 mmole, 3.16 g | CC1=C(C2=CC=CC=C2C=C1)O | C11H10O
reactant | trifluoroacetic anhydride | 25 mmole, 5.25 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 2-methyl-1-(2'2'2'-trifluoroacetoxy)naphthalene | 850 mg, 17% yield | CC1=C(C2=CC=CC=C2C=C1)OC(C(F)(F)F)=O | C13H9F3O2
